US07714168B2
To 50 ml of ethanol were added 10.8 g of 2-propynyl 4-(2-propynyloxy)-3-fluorobenzoate and 30 ml of 15% aqueous sodium hydroxide solution, and the mixture obtained was stirred at room temperature for 2 hours. Then, the reaction mixture was added to hydrochloric acid for acidification. Crystals precipitated were collected by filtration and dried to obtain 8.0 g of 4-(2-propynyloxy)-3-fluorobenzoic acid represented by the formula:

reactant | 2-propynyl 4-(2-propynyloxy)-3-fluorobenzoate | 10.8 g | C(C#C)OC1=C(C=C(C(=O)OCC#C)C=C1)F | C13H9FO3
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 4-(2-propynyloxy)-3-fluorobenzoic acid | 8.0 g | C(C#C)OC1=C(C=C(C(=O)O)C=C1)F | C10H7FO3
